datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:7],8.1588
[N:0]([N:1]([N:2]([N:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5]>>[N:0]([H:4])([H:5])[H:7].[N:1](=[N:2][N:3]([H:8])[H:9])[H:6],207.4
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:22])[H:23])[H:21])=[C:10]([C:11]([H:24])([H:25])[H:26])[C:12]([H:27])([H:28])[H:29])([H:19])[H:20])[H:18])[H:17])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([C:8](=[C:9]([H:22])[H:23])[H:21])[C:10]1([C:11]([H:24])([H:25])[H:26])[C:12]([H:27])([H:28])[H:29])[H:13],114.056
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29])([H:11])([H:12])[H:13],64.1407
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17],28.0328
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12],119.788
[N:0]=[N:1][H:2].[O:3][H:4]>>[H:2][O:3][H:4].[N:0]#[N:1],-4.97896
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24],34.4762
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][H:8],18.706664
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:18]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:6][H:18],16.054008
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[O:12][O:13][H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[O:4])[H:11])[H:14])([H:5])([H:6])[H:7].[O:12][O:13],5.48104
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30],93.3701
[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])[H:5].[O:7][O:8][H:9]>>[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])([H:5])[O:7][O:8][H:9],-4.184
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][O:13][O:14][H:15],53.563568
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:8])[H:7])([H:5])[H:6],9.37216
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][O:16][C:15]([H:17])([H:18])[H:19],27.020272
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:12])[H:16])([H:9])([H:10])[H:11],95.8136
[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[C:7](=[O:8])([H:9])[H:10]>>[C:0](=[C:1]([O:2][O:3][H:9])[H:6])([H:4])[H:5].[C:7](=[O:8])[H:10],42.701904
[O:0]=[N:1][O:2][H:3].[O:4]>>[H:3][O:4].[O:0]=[N:1][O:2],24.93664
